US04596816
60% Sodium hydride in oil (0.47 g) was added portionwise to a solution of diethyl malonate (3.4 g) in N,N-dimethylformamide (20 ml) and under ice-cooling a solution of 5-bromomethyl-4-(3-chlorophenyl)-2-methyloxazole (3 g) in N,N-dimethylformamide (10 ml) was added. The mixture was stirred under ice-cooling for 30 minutes, diluted with water and extracted with ethyl ether. The ethyl ether layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the residue was dissolved in ethanol (20 ml), followed by addition of 2N sodium hydroxide (20 ml). The mixture was refluxed for 5 minutes, diluted with water and washed with ethyl ether. The aqueous layer was adjusted to pH 2 with hydrochloric acid and extracted with ethyl ether The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off and the oily residue (mostly, half-ester) was dissolved in pyridine (20 ml). The solution was refluxed for 2.5 hours. The pyridine was then distilled off and the residue [mostly, ethyl 4-(3-chlorophenyl)-2-methyloxazole-5-propionate] was dissolved in a mixture of ethanol (10 ml) and 2N sodium hydroxide (10 ml). The solution was refluxed for 5 minutes, diluted with water and acidified with hydrochloric acid to give crsytals of 4-(3-chlorophenyl)-2-methyloxazole-5-propionic acid, yield 1.6 g (56.7%), m.p. 159°-160° C.

reactant | Sodium hydride | [H-].[Na+]
reactant | diethyl malonate | 3.4 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 5-bromomethyl-4-(3-chlorophenyl)-2-methyloxazole | 3 g | BrCC1=C(N=C(O1)C)C1=CC(=CC=C1)Cl | C11H9BrClNO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(3-chlorophenyl)-2-methyloxazole-5-propionic acid | ClC=1C=C(C=CC1)C=1N=C(OC1CCC(=O)O)C | C13H12ClNO3
